US05998436
Synthesis of ethyl 5-benzylamino-1-[3,5-difluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 8 ml of toluene were added 1.58 g of ethyl 1-[3,5-difluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-5,6,7,8-tetrafluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate together with 0.68 g of benzylamine, and the mixture was stirred at 110° C. for 20 minutes and allowed to cool. After adding 15 ml of toluene and 15 ml of n-hexane, the mixture was washed twice with 300 ml of distilled water. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To the residue was added 4 ml of ethanol, and the solution was allowed to stand, and the precipitate was collected by filtration and washed with ethanol to obtain 1.20 g of the title compound as a yellow powder.

reactant | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl 1-[3,5-difluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-5,6,7,8-tetrafluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.58 g | FC=1C(=NC(=C(C1)F)NCC1=CC=C(C=C1)OC)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)OCC | C25H17F6N3O4
reactant | benzylamine | 0.68 g | C(C1=CC=CC=C1)N | C7H9N
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | 15 ml | CCCCCC | C6H14
product | ethyl 5-benzylamino-1-[3,5-difluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.20 g | C(C1=CC=CC=C1)NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1=NC(=C(C=C1F)F)NCC1=CC=C(C=C1)OC)C(=O)OCC)=O | C32H25F5N4O4
